US07495103B2
A mixture of 4,4-dimethyl-7-nitro-1,2,3,4-tetrahydro-quinoline (25 g, 0.12 mol) and Boc2O (55 g, 0.25 mol) was stirred at 80° C. for 2 days. The mixture was purified by silica gel chromatography to give 4,4-dimethyl-7-nitro-3,4-dihydro-2H-quinoline-1-carboxylic acid tert-butyl ester(8 g, 22%).

reactant | 4,4-dimethyl-7-nitro-1,2,3,4-tetrahydro-quinoline | 0.12 mol, 25 g | CC1(CCNC2=CC(=CC=C12)[N+](=O)[O-])C | C11H14N2O2
reactant | Boc2O | 0.25 mol, 55 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
product | 4,4-dimethyl-7-nitro-3,4-dihydro-2H-quinoline-1-carboxylic acid tert-butyl ester | 8 g, 22% | C(C)(C)(C)OC(=O)N1CCC(C2=CC=C(C=C12)[N+](=O)[O-])(C)C | C16H22N2O4
